US04241073
5-Benzyl-3-n-butyl-1-methylhydantoin
5-Benzyl-3-n-butyl hydantoin (7.38 g, 0.03 mole) was dissolved in dimethylformamide (50 ml.) and added dropwise with stirring to a suspension of sodium hydride (1.44 g. 50% oil dispersion) in dimethylformamide (20 ml). When gassing ceased, iodomethane (2 ml) was added and the mixture warmed to 50° C. and maintained at 50° C. for 5 hours. The mixture was poured into ice/water (500 ml) and extracted with ether. The ether extract was evaporated in vacuo to give a colourless oil which faild to crystallise and was distilled in a Kugelrohr apparatus to give the title compound (6.6 g; 85%) b.p. 145° C./0.02 mm.

reactant | 5-Benzyl-3-n-butyl hydantoin | 0.03 mole, 7.38 g | C(C1=CC=CC=C1)C1C(N(C(N1)=O)CCCC)=O | C14H18N2O2
reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | iodomethane | 2 ml | IC | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-Benzyl-3-n-butyl-1-methylhydantoin | 6.6 g, 85% | C(C1=CC=CC=C1)C1C(N(C(N1C)=O)CCCC)=O | C15H20N2O2
